US06864265B2
Ethyl-3-bromopropanoate (1.29 g, 7.1 mmol), benzimidazole (0.70 g, 5.9 mmol), and potassium carbonate (2.44 g, 17.7 mmol) were combined in anhydrous acetonitrile (60 mL) and heated to reflux for 3 days. Aqueous work-up gave ethyl-3-(benzimidazol-1-yl)propanoate (1.17 g, 91%). 1H NMR (CDCl3) δ2.02 (s, 3H), 2.26 (m, 2H), 4.10 (t, 2H, J=6 Hz), 4.30 (t, 2H, J=6 Hz), 7.28 (br, 2H), 7.33 (br, 1H), 7.84 (br, 1H), 7.94 (br, 1H), 7.60 (br, 1H).

reactant | Ethyl-3-bromopropanoate | 7.1 mmol, 1.29 g | C(C)OC(CCBr)=O | C5H9BrO2
reactant | benzimidazole | 5.9 mmol, 0.70 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | potassium carbonate | 17.7 mmol, 2.44 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | ethyl-3-(benzimidazol-1-yl)propanoate | 1.17 g, 91% | C(C)OC(CCN1C=NC2=C1C=CC=C2)=O | C12H14N2O2
